US05068264
117.9 g (0.75 mol) of N-2-aminoethyl-N'-formylpiperazine, 85.8 g (0.85 mol) of triethylamine and 100 mg of 2,6-di-tert.-butyl-4-methylphenol were reacted in 230 ml of dichloromethane with 78.4 g (0.75 mol) of methacryloyl chloride as described in Example 1 and the mixture was worked up. 73.9 g (44% of theory) of N-formyl-N'-(methacryloylaminoethyl)piperazine were obtained in this manner as a colorless oil.

reactant | N-2-aminoethyl-N'-formylpiperazine | 0.75 mol, 117.9 g | NCCN1CCN(CC1)C=O | C7H15N3O
reactant | triethylamine | 0.85 mol, 85.8 g | C(C)N(CC)CC | C6H15N
reactant | methacryloyl chloride | 0.75 mol, 78.4 g | C(C(=C)C)(=O)Cl | C4H5ClO
solvent | dichloromethane | 230 ml | ClCCl | CH2Cl2
catalyst | 2,6-di-tert.-butyl-4-methylphenol | 100 mg | C(C)(C)(C)C1=C(C(=CC(=C1)C)C(C)(C)C)O | C15H24O
product | N-formyl-N'-(methacryloylaminoethyl)piperazine | 73.9 g, 44% | C(=O)N1CCN(CC1)CCNC(C(=C)C)=O | C11H19N3O2
